US07612114B2
Synthesized from 5-methoxy-2-[1-(3-methoxyphenyl)pyrrolidin-3-yl]phenylamine and 4-(2-azepan-1-ylethoxy)benzoic acid hydrochloride according to an analogous synthetic method to Example 152, [4-(2-azepan-1-ylethoxy)benzyl]{5-methoxy-2-[1-(3-methoxyphenyl)pyrrolidin-3-yl]phenyl}amine (202 mg) was used according to an analogous synthetic method to Example 36 to provide [4-(2-azepan-1-ylethoxy)benzyl]ethyl{5-methoxy-2-[1-(3-methoxyphenyl) pyrrolidin-3-yl]phenyl}amine (188 mg). The total amount of this compound was used according to an analogous synthetic method to Example 111 to provide the title compound (153 mg).

reactant | 5-methoxy-2-[1-(3-methoxyphenyl)pyrrolidin-3-yl]phenylamine | COC=1C=CC(=C(C1)N)C1CN(CC1)C1=CC(=CC=C1)OC | C18H22N2O2
reactant | 4-(2-azepan-1-ylethoxy)benzoic acid hydrochloride | Cl.N1(CCCCCC1)CCOC1=CC=C(C(=O)O)C=C1
reactant | [4-(2-azepan-1-ylethoxy)benzyl]{5-methoxy-2-[1-(3-methoxyphenyl)pyrrolidin-3-yl]phenyl}amine | 202 mg | N1(CCCCCC1)CCOC1=CC=C(CNC2=C(C=CC(=C2)OC)C2CN(CC2)C2=CC(=CC=C2)OC)C=C1 | C33H43N3O3
product | [4-(2-azepan-1-ylethoxy)benzyl]ethyl{5-methoxy-2-[1-(3-methoxyphenyl) pyrrolidin-3-yl]phenyl}amine | 188 mg | N1(CCCCCC1)CCOC1=CC=C(CN(C2=C(C=CC(=C2)OC)C2CN(CC2)C2=CC(=CC=C2)OC)CC)C=C1 | C35H47N3O3
